US06818631B1
5-(1-Chlorovinyl)-4-imidazol-1-yl-2-methyl-6-trifluoromethyl-pyrimidine (0.20 g) was dissolved in dimethylsulfoxide (2 ml) and 1,8-diazabicyclo-[5,4,0]-undec-7-ene (0.11 g) was added at room temperature with stirring. The mixture was stirred for 2 hr in room temperature and then added water. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed water and brine, respectively and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-THF) to give 5-Ethynyl-4-imidazol-1-yl-2-methyl-6-trifluoromethylpyrimidine (0.11 g) as colorless crystalline solid, mp 121-122° C.

reactant | 5-(1-Chlorovinyl)-4-imidazol-1-yl-2-methyl-6-trifluoromethyl-pyrimidine | 0.20 g | ClC(=C)C=1C(=NC(=NC1C(F)(F)F)C)N1C=NC=C1 | C11H8ClF3N4
reactant | 1,8-diazabicyclo-[5,4,0]-undec-7-ene | 0.11 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 5-Ethynyl-4-imidazol-1-yl-2-methyl-6-trifluoromethylpyrimidine | 0.11 g | C(#C)C=1C(=NC(=NC1C(F)(F)F)C)N1C=NC=C1 | C11H7F3N4
